US06046212
Synthesis of 4-[2-(2-quinolyl)ethenyl]benzaldehyde
1,4-Benzenedialdehyde (30 g, 0.22 mol), 2-methylquinoline (21 g, 0.15 mol) and acetic anhydride (41.5 ml, 0.40 mol) were dissolved in 160 ml of xylene, followed by heating under reflux for 7 hours. After the reaction mixture was allowed to cool down to room temperature, 200 ml of petroleum ether were added and the resulting precipitate was collected by filtration. Further, the mother liquor was concentrated under reduced pressure and the residue was recrystallized from diethyl ether, whereby 13.6 g of the title compound were obtained (yield: 35%).

reactant | 1,4-Benzenedialdehyde | 0.22 mol, 30 g | C1(=CC=C(C=C1)C=O)C=O | C8H6O2
reactant | 2-methylquinoline | 0.15 mol, 21 g | CC1=NC2=CC=CC=C2C=C1 | C10H9N
reactant | acetic anhydride | 0.40 mol, 41.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | xylene | 160 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-[2-(2-quinolyl)ethenyl]benzaldehyde | 13.6 g, yield: 35% | N1=C(C=CC2=CC=CC=C12)C=CC1=CC=C(C=O)C=C1 | C18H13NO
